US09447029B2
150 mg (0.46 mmol) of N-(tert-butoxycarbonyl)-2,2-difluoro-2-(3-butoxyphenyl)ethylamine are dissolved in dry DMF (2.5 mL) and the solution was cooled to 0° C. NaH (60% in mineral oil; 22 mg; 0.55 mmol) is added and the reaction mixture stirred for 10 minutes at 0° C. and for further 10 minutes at room temperature. The reaction mixture is cooled again at 0° C., then N,N-dimethylchloroacetamide (73 mg; 0.60 mmol) is added and stirring is continued for 24 hours at room temperature. The reaction is quenched with water, extracted three times with EtAc, washed with brine. The organic phases are dried over anhydrous Na2SO4, filtered and evaporated. The residue is flash-chromatographed on silica gel (eluant: DCM/EtAc, from 98/2 to 95/5). 2-[N′-(tert-butoxycarbonyl)-2,2-difluoro-2-(3-butoxyphenyl)-ethylamino]-N,N-dimethyl-acetamide (165 mg; 87%) is obtained as a white solid.

reactant | N-(tert-butoxycarbonyl)-2,2-difluoro-2-(3-butoxyphenyl)ethylamine | 0.46 mmol, 150 mg | C(C)(C)(C)OC(=O)NCC(C1=CC(=CC=C1)OCCCC)(F)F | C17H25F2NO3
reactant | NaH | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | N,N-dimethylchloroacetamide | 0.60 mmol, 73 mg | CN(C(CCl)=O)C | C4H8ClNO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 2-[N′-(tert-butoxycarbonyl)-2,2-difluoro-2-(3-butoxyphenyl)-ethylamino]-N,N-dimethyl-acetamide | 165 mg, 87% | C(C)(C)(C)OC(=O)N(CC(=O)N(C)C)CC(C1=CC(=CC=C1)OCCCC)(F)F | C21H32F2N2O4
